US05045541
To a solution of 5 g of methionine and 25 ml of methane-sulfonic acid is added 5 g of 9-fluoro-2-(4-methoxyphenyl)-5,6-dihydrobenzo[h]cinnolin-3(2H)-one. After the mixture is heated to 55° C. and stirred for 2 days, the reaction mixture is poured into water. The resulting crystals are collected and washed with ethanol to give 4.5 g of 9-fluoro-2-(4-hydroxyphenyl)-5,6-dihydrobenzo[h]cinnolin-3(2H)-one, m.p. 300°-302° C. (decomposition).

reactant | methionine | 5 g | N[C@@H](CCSC)C(=O)O | C5H11NO2S
reactant | methane-sulfonic acid | 25 ml | CS(=O)(=O)O | CH4O3S
reactant | 9-fluoro-2-(4-methoxyphenyl)-5,6-dihydrobenzo[h]cinnolin-3(2H)-one | 5 g | FC1=CC2=C(CCC3=CC(N(N=C23)C2=CC=C(C=C2)OC)=O)C=C1 | C19H15FN2O2
solvent | water | O | H2O
product | 9-fluoro-2-(4-hydroxyphenyl)-5,6-dihydrobenzo[h]cinnolin-3(2H)-one | 4.5 g | FC1=CC2=C(CCC3=CC(N(N=C23)C2=CC=C(C=C2)O)=O)C=C1 | C18H13FN2O2
